US07919504B2
To a 100 mL round bottom flask was added phthalazine-5-carboxylic acid (0.50 g, 2.9 mmol) 1,1′-carbonyldiimidazole (0.93 g, 5.7 mmol) and DMF (2.2 mL). The mixture was stirred at 70° C. for 1 hour and treated with thiosemicarbazide (0.81 g, 8.9 mmol). The resulting mixture was stirred at 70° C. for 30 minutes. The mixture was concentrated under vacuum to remove almost all of the DMF. The remaining residue was treated with 2 N HCl with stirring until the solution reached pH 4. Upon standing, a yellow solid formed. The precipitate was recovered by filtration, washing with water and air dried to provide 1-(phthalazine-5-carbonyl)thiosemicarbazide (0.45 g, 63%).

reactant | phthalazine-5-carboxylic acid | 2.9 mmol, 0.50 g | C1=NN=CC=2C(=CC=CC12)C(=O)O | C9H6N2O2
reactant | thiosemicarbazide | 8.9 mmol, 0.81 g | NNC(=S)N | CH5N3S
solvent | DMF | 2.2 mL | CN(C)C=O | C3H7NO
product | 1-(phthalazine-5-carbonyl)thiosemicarbazide | 0.45 g, 63% | C1=NN=CC=2C(=CC=CC12)C(=O)NNC(=S)N | C10H9N5OS
